US08580824B2
A solution of 2-chloro-6-methyl-isonicotinic acid isopropyl ester (2.0 g, 9.36 mmol) in dioxane (75 mL) is degassed and put under argon before Pd(dppf) (229 mg, 0.281 mmol) is added. At rt, a 0.5 M solution of 1-ethyl-propylzinc bromide in THF (46.8 mL, 23.4 mmol) is added dropwise to the mixture. The mixture is stirred at 80° C. for 16 h before the reaction is quenched by adding ice-cold water (200 mL). A precipitate forms and the mixture is diluted with EA (200 mL) and filtered through celite. The filtrate is transferred into a separatory funnel. The org. phase is collected and the aq. phase is extracted with EA (120 mL). The combined org. extracts are dried over MgSO4, filtered and concentrated. The crude product is purified by CC on silica gel eluting with heptane:EA 9:1 to 4:1 to give 2-(1-ethyl-propyl)-6-methyl-isonicotinic acid isopropyl ester (1.6 g) as a yellow oil; LC-MS: tR=0.79 min, [M+1]+=250.14; 1H NMR (D6-DMSO): δ 0.70 (t, J=7.3 Hz, 6 H), 1.33 (d, J=6.3 Hz, 6 H), 1.58-1.70 (m, 4 H), 2.51 (s, 3 H), 2.55-2.63 (m, 1 H), 5.15 (hept, J=5.8 Hz), 7.39 (s, 1 H), 7.49 (s, 1 H).

reactant | 2-chloro-6-methyl-isonicotinic acid isopropyl ester | 9.36 mmol, 2.0 g | C(C)(C)OC(C1=CC(=NC(=C1)C)Cl)=O | C10H12ClNO2
reactant | 1-ethyl-propylzinc bromide | [Br-].C(C)C(CC)[Zn+]
reactant | THF | 23.4 mmol, 46.8 mL | C1CCOC1 | C4H8O
solvent | dioxane | 75 mL | O1CCOCC1 | C4H8O2
product | 2-(1-ethyl-propyl)-6-methyl-isonicotinic acid isopropyl ester | 1.6 g | C(C)(C)OC(C1=CC(=NC(=C1)C)C(CC)CC)=O | C15H23NO2
